US07705002B2
(R)-1-[4-(2′-Difluoromethyl-biphenyl-3-yl)-piperazin-1-yl]-2-hydroxy-4-methyl-pentan -1-one (Cmpd. No. 2)
2-(2-Difluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (34 mg, 0.11 mmol), 1-[4-(3-Chloro-phenyl)-piperazin-1-yl]-2-hydroxy -4-methyl-pentan-1-one (34 mg, 0.13 mmol), Pd(Ph3P)4 (1.3 mg, 10 μmol), K2CO3 (30.4 mg, 0.22 mmol), CH3CN (900 μL), and H2O (100 μL) were sealed in a microwave vessel and heated by microwave irradiation at 150° C. for 10 minutes. The reaction was filtered and purified by reverse phase HPLC (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)) to give 2. LCMS: m/z 403.7 (M+H)+ at 3.72 minutes (10% -99% CH3CN/H2O), (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(2-Difluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.11 mmol, 34 mg | FC(C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O2
reactant | 1-[4-(3-Chloro-phenyl)-piperazin-1-yl]-2-hydroxy -4-methyl-pentan-1-one | 0.13 mmol, 34 mg | ClC=1C=C(C=CC1)N1CCN(CC1)C(C(CC(C)C)O)=O | C16H23ClN2O2
reactant | K2CO3 | 0.22 mmol, 30.4 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(Ph3P)4 | 10 μmol, 1.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | CH3CN H2O | CC#N.O
solvent | H2O | 100 μL | O | H2O
solvent | CH3CN | 900 μL | CC#N | C2H3N
product | (R)-1-[4-(2′-Difluoromethyl-biphenyl-3-yl)-piperazin-1-yl]-2-hydroxy-4-methyl-pentan -1-one | FC(C1=C(C=CC=C1)C1=CC(=CC=C1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)F | C23H28F2N2O2
